US08198327B2
Synthesis of Oleoyl Serine
N-Hydroxysuccinimide Ester of Oleic Acid. Oleic acid (2 g, 7.08 mmoles) was added to a solution of N-hydroxysuccinimide (0.814 g, 7.08 mmoles) in dry ethyl acetate (30 ml). A solution of dicyclohexylcarbodiimide (1.45 g, 7.08 mmoles) in dry ethyl acetate (2.5 ml) was then added, and the reaction mixture was left overnight at room temperature Dicyclohexylurea was filtered, and the crude material was chromatographed on silica gel (eluting with chloroform) to give 2.38 g (85%) as yellowish oil.

reactant | Oleic Acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | Oleic acid | 7.08 mmoles, 2 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | N-hydroxysuccinimide | 7.08 mmoles, 0.814 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 7.08 mmoles, 1.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
product | Oleoyl Serine | C(CCCCCCC\C=C/CCCCCCCC)(=O)N[C@@H](CO)C(=O)O | C21H39NO4
